US05565479
2-[(2-Methyl-4-imidazolyl)methyl]-8H-indeno[1,2-d]thiazole
Starting compounds: 2-bromo-1-indanone, (2-methyl-4-imidazolyl)thioacetamide hydrochloride

reactant | 2-bromo-1-indanone | BrC1C(C2=CC=CC=C2C1)=O | C9H7BrO
reactant | (2-methyl-4-imidazolyl)thioacetamide hydrochloride | Cl.CC=1NC=C(N1)CC(=S)N
product | 2-[(2-Methyl-4-imidazolyl)methyl]-8H-indeno[1,2-d]thiazole | CC=1NC=C(N1)CC=1SC2=C(N1)C=1C=CC=CC1C2 | C15H13N3S
